US08207216B2
To a solution of acetic acid 3-oxo-2,3-dihydro-benzofuran-6-ylmethyl ester (1.50 g, 7.27 mmol) in toluene (260 mL) was added (caboxymethylene)triphenyl phosphorane (12.67 g, 36.37 mmol) and the mixture was refluxed for 24 h. The reaction mixture was allowed to cool to room temperature and concentrated. The residue was purified by column chromatography (ethylacetate:hexane; 5:95) to give the (6-acetoxymethyl-benzofuran-3-yl)-acetic acid ethyl ester as a off white solid (1.15 g, 57%). 1H NMR (CDCl3, 400 MHz) 1.27 (t, J=7.1 Hz, 3H), 2.11 (s, 3H), 3.69 (s, 2H), 4.19 (q, J=7.1 Hz, 2H), 5.21 (s, 2H), 7.26 (d, J=8.0 Hz, 1H), 7.50 (s, 1H), 7.56 (d, J=8.0 Hz, 1H), 7.65 (s, 1H), 13C NMR (CDCl3, 100 MHz) 14.2, 21.0, 29.9, 61.1, 66.4, 111.6, 113.1, 119.8, 123.1, 127.7, 132.6, 143.5, 155.2, 170.5, 170.9.

reactant | acetic acid 3-oxo-2,3-dihydro-benzofuran-6-ylmethyl ester | 7.27 mmol, 1.50 g | O=C1COC2=C1C=CC(=C2)COC(C)=O | C11H10O4
reactant | (caboxymethylene)triphenyl phosphorane | 36.37 mmol, 12.67 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | toluene | 260 mL | C1(=CC=CC=C1)C | C7H8
product | (6-acetoxymethyl-benzofuran-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=COC2=C1C=CC(=C2)COC(C)=O)=O | C15H16O5
